US08106221B2
To a solution of ethyl 3-(methylamino)propanoate (125 g, 0.96 mol) and TEA (193 g, 1.92 mol) in CH2Cl2 at 0° C. was added drop wise Boc2O (208 g, 0.96 mol). After the addition, the resulting mixture was stirred overnight. The mixture was poured into water (1000 mL), separated, and the organic layer was washed with brine, dried over anhydrous Na2SO4, and concentrated to give ethyl 3-(tert-butoxycarbonyl(methyl)amino)propanoate (205 g, crude) as an oil which was used in the next step without further purification.

reactant | ethyl 3-(methylamino)propanoate | 0.96 mol, 125 g | CNCCC(=O)OCC | C6H13NO2
reactant | Boc2O | 0.96 mol, 208 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 1000 mL | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | ethyl 3-(tert-butoxycarbonyl(methyl)amino)propanoate | 205 g | C(C)(C)(C)OC(=O)N(CCC(=O)OCC)C | C11H21NO4
